Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p Fall from window
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ aka ___ Critical, Hope is a ___ old 
right-handed woman with a past medical history of depression, 
who presents after jumping from a window at 35-feet in attempted 
suicide. CT scan was concerning for L1-3 compression fractures 
and neurosurgery was consulted for further management. 

 
Past Medical History:
depression, anxiety
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Admission Physical Exam:
O: T: 98.9 BP: 109/67  HR: 109  R 18   O2Sats 99 RA
Gen: Appears upset, tearful, anxious
HEENT: Atraumatic, no conjunctival injection
Lungs: CTA bilaterally
Cardiac: RRR
Abd: Soft, NT
Extrem: Warm and well-perfused, right wrist deformity with
bruising

Discharge Physical Exam:
VS: 98.6 100 120/80 16 100%RA
GENERAL: AAOx3 NAD
HEENT: NCAT, EOMI, PERRLA, No scleral icterus, mucosa moist, no 
LAD
CARDIOVASCULAR: R/R/R, S1/S2, NO M/R/G
CAROTIDS: 2+, No bruits or JVD
PULMONARY: CTA ___, No crackles or rhonchi
GASTROINTESTINAL: S/NT/ND. No guarding, rebound, or frank 
peritonitis. +BSx4
EXT/MS/SKIN: No C/C/E; Feet warm. Good perfusion; RUE splinted. 
PULSES: +___
NEUROLOGICAL: Reflexes, strength, and sensation grossly intact
CNII-XII: WNL
 
Pertinent Results:
___ 05:08PM BLOOD WBC-8.4 RBC-4.69 Hgb-13.6 Hct-41.0 MCV-87 
MCH-29.0 MCHC-33.2 RDW-13.0 RDWSD-41.0 Plt ___
___ 10:06AM BLOOD WBC-13.7* RBC-5.09 Hgb-14.6 Hct-44.3 
MCV-87 MCH-28.7 MCHC-33.0 RDW-12.8 RDWSD-40.3 Plt ___
___ 05:08PM BLOOD ___ PTT-29.1 ___
___ 12:45PM BLOOD ___
___ 11:24AM BLOOD ___ PTT-29.9 ___
___ 10:06AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:06AM BLOOD Lipase-65*
___ 10:16AM BLOOD Glucose-142* Lactate-2.0 Na-139 K-4.3 
Cl-107 calHCO3-21

Imaging:
CT head ___ (prelim): 
1. An ill-defined area of increased density in/ adjacent to the
right frontotemporal sulcus may reflect underlying subarachnoid
hemorrhage or artifact. No associated mass effect or edema. 
2. Incidental note is made of a right-sided congenital external
and middle ear malformation. 

CT C spine ___ (prelim):
No evidence of fracture or traumatic malalignment.

CT torso ___ (prelim):
There are right anterior corner compression fractures of L1, L2,
and L3. Fracture lines involving L1 and L2 extend posteriorly
enough to be considered column fractures.

___ Xray hand/wrist right:
Intraarticular impacted and comminuted fracture of the distal 
radius with 
dorsal angulation.  Avulsion fracture at the ulnar styloid. 

___ Xray hand/wrist right:
Distal radial fracture with improved alignment post reduction.

___ CT Head:
No acute intracranial process.

 
Brief Hospital Course:
Mr. ___ is a ___ yo F admitted to the Acute Care Trauma 
Surgery Service on ___ after fall out of a window. She 
arrived alert, oriented, and hemodynamically stable. Past 
medical history significant for major depressive disorder an 
recent inpatient psychiatric hospitalization in ___. She was 
pan scanned and found to have a small superior endplate fracture 
of L1-L3 and a closed right distal radius fracture. She was seen 
and evaluated by the psychiatry team in the emergency department 
who recommend 1:1 sitter for safety and inpatient psychiatric 
hospitalization when otherwise medically stable. She was 
admitted to the floor for hemodynamic monitoring, pain control, 
and further management of her injuries.

The Neurosurgery spine service was consulted and recommended 
non-operative management and a LSO brace when out of bed. 

Hand surgery was consulted for her right radius fracture. They 
preformed a hematoma block and the wrist closed reduced with 
post reduction films showing improvement in alignment. They 
recommend maintaining the splint for 1 week (last day ___, 
non-weight bearing, and follow up in the hand clinic.

The psychiatric team continued to follow the patient and made 
medication recommendations. ___ paper work was filed. 

The remainder of her hospital course is summarized below:
She remained alert, oriented, calm, and cooperative throughout 
this hospitalization. Pain was well controlled. Diet was 
progressively advanced as tolerated to a regular  with good 
tolerability. The patient voided without problem. During this 
hospitalization, the patient ambulated early and frequently, was 
adherent with respiratory toilet and incentive spirometry, and 
actively participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged to an inpatient 
psychiatric unit. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. Follow up appointments were 
scheduled. 

 
Medications on Admission:
Clonazepam .5 mg daily
Bupropion XL 150mg daily
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
do not exceed 4 grams/24 hours 
2. BuPROPion 75 mg PO BID 
3. Heparin 5000 UNIT SC BID 
4. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
take lowest effective dose. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0
5. ClonazePAM 0.25 mg PO BID anxiety 
RX *clonazepam 0.5 mg 0.5 (One half) tablet(s) by mouth twice a 
day Disp #*10 Tablet Refills:*0
6. ClonazePAM 0.25 mg PO DAILY:PRN anxiety 
RX *clonazepam 0.5 mg 0.5 (One half) tablet(s) by mouth once a 
day Disp #*10 Tablet Refills:*0
7. TraZODone 100 mg PO QHS:PRN insomnia 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Small superior endplate fracture of L1-L3
Closed right distal radius fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Trauma Surgery Service on 
___ after a fall from a window. You sustaining multiple 
injuries including multiple fractures in your back and a 
fracture in your right wrist. 

You were seen and evaluated by the neurosurgery speicalists for 
the fractures in your back. They recommend wearing a LSO brace 
when out of bed and outpatient follow up. 

You were seen and evaluated by the hand surgery team who 
repaired your right wrist in the operating room. They recommend 
leaving the splint/dressing in place until your follow up 
appointment. You should not bear weight on this arm until follow 
up in clinic. 

You were seen and evaluated by the physical therapist team who 
deem you do not require acute physical or occupational needs. 

You are now medically cleared to be discharged to continue your 
recovery. 

Please note the following discharge instructions. 

 
Followup Instructions:
___